US04093631
3,4-Dihydro-7-hydroxy-4-(1-naphthyl)coumarin
A mixture of 3-(1-naphthyl)acrylic acid (50.0g., 0.25 moles) in concentrated hydrochloric acid (1500 ml.) was stirred at reflux while a vigorous stream of hydrogen chloride was passed through the reaction for 6 hours. The solution was allowed to stand overnight at room temperature, then filtered to give a white solid which was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution (3×). The ethyl acetate solution was dried and removal of solvent gave the dihydrocoumarin as a white solid (43.5g., 85% based on consumed starting material) m.p. 193°-196° C.

reactant | 3-(1-naphthyl)acrylic acid | 0.25 moles, 50.0g | C1(=CC=CC2=CC=CC=C12)C=CC(=O)O | C13H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1500 ml | Cl | ClH
product | 3,4-Dihydro-7-hydroxy-4-(1-naphthyl)coumarin | OC1=CC=C2C(CC(OC2=C1)=O)C1=CC=CC2=CC=CC=C12 | C19H14O3
